US07087599B2
A solution of 9a-butyl-4-ethyl-6-fluoro-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (93 mg, 0.28 mmol) in anhydrous dichloromethane (1.4 mL) was cooled in a dry ice-acetone bath (−78° C.) and the solution treated with 1M boron tribromide in dichloromethane (1.4 mL, 1.4 mmol). The cooling bath was removed and the mixture was stirred at room temperature for 90 minutes. The mixture was partitioned between EtOAc (20 mL) and water (20 mL) containing 2N HCl (2 mL). The organic phase was washed with brine (10 mL), dried over MgSO4, filtered, and evaporated under vacuum. The residue was purified by preparative layer chromatography on two 0.05×20×20 cm silica gel GF plates, developing with 5% EtOAc in CH2Cl2. The product bands were eluted with EtOAc, the eluent evaporated under vacuum, and the residue lyophilized from benzene to afford 9a-butyl-4-ethyl-6-fluoro-7-hydroxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one as an amorphous solid.

reactant | 9a-butyl-4-ethyl-6-fluoro-7-methoxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.28 mmol, 93 mg | C(CCC)C12CC3=C(C(=C(C=C3C2=C(C(CC1)=O)CC)F)OC)C | C21H27FO2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.4 mmol, 1.4 mL | ClCCl | CH2Cl2
product | 9a-butyl-4-ethyl-6-fluoro-7-hydroxy-8-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=C(C(=C(C=C3C2=C(C(CC1)=O)CC)F)O)C | C20H25FO2
